US07678929B2
1.00 g (2.99 mmol) of 4,5-difluoro-2-(4-propylcyclohexyl)-8,9-dihydro-7H-furo[3,2-f]chromene is hydrogenated for 15 h at room temperature and atmospheric pressure in THF using elemental hydrogen in the presence of Pd/C (5% Pd). The reaction soln. is concentrated to dryness, and the residue is purified by column chromatography (SiO2, 1-chlorobutane pentane=2:1). Further purification is carried out by recrystallisation from ethanol, giving 4,5-difluoro-2-(4-propylcyclohexyl)-1,7,8,9-tetrahydro-2H-furo[3,2-f]chromene as a colourless solid having an m.p. of 96° C. (Δ∈=−7.0).

reactant | 4,5-difluoro-2-(4-propylcyclohexyl)-8,9-dihydro-7H-furo[3,2-f]chromene | 2.99 mmol, 1.00 g | FC1=C2C(=C3CCCOC3=C1F)C=C(O2)C2CCC(CC2)CCC | C20H24F2O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 4,5-difluoro-2-(4-propylcyclohexyl)-1,7,8,9-tetrahydro-2H-furo[3,2-f]chromene | FC1=C2C(=C3CCCOC3=C1F)CC(O2)C2CCC(CC2)CCC | C20H26F2O2
